US07423185B2
Methanesulfonyl chloride (0.17 mL) was added to an ice-cooled mixture of ethyl [4′-(2-hydroxyethoxy)-2′,6′-dimethylbiphenyl-4-yloxy]acetate (0.58 g) and triethylamine (0.36 mL) in methylene chloride (5 mL) with stirring, and the mixture was stirred at room temperature for 1 hr. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford ethyl [4′-(2-methanesulfonyloxyethoxy)-2′,6′-dimethylbiphenyl-4-yloxy]acetate.

reactant | Methanesulfonyl chloride | 0.17 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl [4′-(2-hydroxyethoxy)-2′,6′-dimethylbiphenyl-4-yloxy]acetate | 0.58 g | OCCOC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)OCC(=O)OCC)C | C20H24O5
reactant | triethylamine | 0.36 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl [4′-(2-methanesulfonyloxyethoxy)-2′,6′-dimethylbiphenyl-4-yloxy]acetate | CS(=O)(=O)OCCOC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)OCC(=O)OCC)C | C21H26O7S
